US08003806B2
(a) Ethyl 3-(1H-benzimidazol-1-yl)-3-(4-ethylphenyl)-2-propenoate
To a solution of benzimidazole (118 mg, 1.00 mmol) in DMF (3 mL) was added ethyl 3-(4-ethylphenyl)-2-propynoate (202 mg, 1.00 mmol) and potassium carbonate (152 mg, 1.10 mmol). This suspension was heated to 100° C. for 48 hours, then cooled to room temperature, and evaporated in vacuo. The residue was partitioned between water and dichloromethane, and the separated aqueous layer extracted with dichloromethane. The combined organic layers were dried over anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (96:4) to afford (in order of elution), ethyl (2Z)-3-(1H-benzimidazol-1-yl)-3-(4-ethylphenyl)-2-propenoate, mixed fractions, and ethyl (2E)-3-(1H-benzimidazol-1-yl)-3-(4-ethylphenyl)-2-propenoate.

reactant | benzimidazole | 1.00 mmol, 118 mg | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | ethyl 3-(4-ethylphenyl)-2-propynoate | 1.00 mmol, 202 mg | C(C)C1=CC=C(C=C1)C#CC(=O)OCC | C13H14O2
reactant | potassium carbonate | 1.10 mmol, 152 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-(1H-benzimidazol-1-yl)-3-(4-ethylphenyl)-2-propenoate | N1(C=NC2=C1C=CC=C2)C(=CC(=O)OCC)C2=CC=C(C=C2)CC | C20H20N2O2
